US04711899
2-{4-[2-(4-Fluorophenyl)-1,3-dioxolan-2-yl]-1-piperidyl}-1-(4-fluorophenyl)-1-propanone.
The reaction is performed under the conditions of Example 4a, starting with 9.24 g (0.04 mole) of 2-bromo-1-(4-fluorophenyl)-1-propanone, 10.05 g (0.04 mole) of 2-(4-fluorophenyl)-2-(4-piperidyl)1,3-dioxolane and 5.56 g of potassium carbonate in 150 ml of acetonitrile.

reactant | 2-bromo-1-(4-fluorophenyl)-1-propanone | 0.04 mole, 9.24 g | BrC(C(=O)C1=CC=C(C=C1)F)C | C9H8BrFO
reactant | 2-(4-fluorophenyl)-2-(4-piperidyl)1,3-dioxolane | 0.04 mole, 10.05 g | FC1=CC=C(C=C1)C1(OCCO1)C1CCNCC1 | C14H18FNO2
reactant | potassium carbonate | 5.56 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-{4-[2-(4-Fluorophenyl)-1,3-dioxolan-2-yl]-1-piperidyl}-1-(4-fluorophenyl)-1-propanone | FC1=CC=C(C=C1)C1(OCCO1)C1CCN(CC1)C(C(=O)C1=CC=C(C=C1)F)C | C23H25F2NO3
